US03931151
22.81 g of N-bromosuccimide were added over 15 minutes at room temperature to a solution of 25 g of 5-methyl-10,11-dihydro [5H] dibenzo (b,f) azepine-10-one in 250 ml of dimethylformamide under a nitrogen atmosphere and the mixture was stirred for 30 minutes at room temperature. The reaction mixture was poured into 2 liters of ice water and was extracted with ether. The ether extracts were washed with water, dried over magnesium sulfate and evaporated to dryness to obtain 34 g of 2-bromo-5-methyl-10,11-dihydro [5H] dibenzo (b,f) azepine-11-one. The product was dissolved in 100 ml of refluxing ethyl acetate and the solution was filtered hot and concentrated to the start of crystallization. The mixture was iced for 30 minutes and vacuum filtered. The recovered precipitate was washed with ethyl acetate and dried under reduced pressure to obtain 29.5 g of the said product in the form of pale yellow crystals melting at 128°-129°C.

reactant | N-bromosuccimide | 22.81 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | 5-methyl-10,11-dihydro [5H] dibenzo (b,f) azepine-10-one | 25 g | CN1C2=C(CC(C3=C1C=CC=C3)=O)C=CC=C2 | C15H13NO
solvent | dimethylformamide | 250 ml | CN(C=O)C | C3H7NO
product | 2-bromo-5-methyl-10,11-dihydro [5H] dibenzo (b,f) azepine-11-one | 34 g | BrC1=CC2=C(N(C3=C(CC2=O)C=CC=C3)C)C=C1 | C15H12BrNO
